US06861438B2
N-(4-chlorobenzyl)-2-{[[2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-4-{2-[methoxy(methyl)amino]-2-oxoethyl}-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide
Diisopropylethylamine (34 μL, 0.19 mmol) was added to a mixture of N-(4-chlorobenzyl)-2-(chloromethyl)-4-{2-[methoxy(methyl)amino]-2-oxoethyl}-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide (60 mg, 0.13 mmol) and 1-(2-furyl)-2-(methylamino)ethanol (27 mg, 0.19 mmol) in DMF (2.0 mL). The mixture was shaken at 60° C. for 3 hrs. The reaction was cooled to room temperature before the addition of water (5 mL). The resulting ppt was collected by filtration and washed with water. After drying in vacuo, the title compound was obtained as a pale yellow solid (41 mg).

reactant | Diisopropylethylamine | 0.19 mmol, 34 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-(4-chlorobenzyl)-2-(chloromethyl)-4-{2-[methoxy(methyl)amino]-2-oxoethyl}-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | 0.13 mmol, 60 mg | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC(=O)N(C)OC)C=C(S3)CCl)=O)C=C1 | C20H19Cl2N3O4S
reactant | 1-(2-furyl)-2-(methylamino)ethanol | 0.19 mmol, 27 mg | O1C(=CC=C1)C(CNC)O | C7H11NO2
reactant | water | 5 mL | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | N-(4-chlorobenzyl)-2-{[[2-(2-furyl)-2-hydroxyethyl](methyl)amino]methyl}-4-{2-[methoxy(methyl)amino]-2-oxoethyl}-7-oxo-4,7-dihydrothieno[3,2-b]pyridine-6-carboxamide | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)CC(=O)N(C)OC)C=C(S3)CN(C)CC(O)C=3OC=CC3)=O)C=C1 | C27H29ClN4O6S
